US04894451
1-(3-aminopropylamino)-4-methoxyanthracene-9,10-dione
A solution of 1,3-diaminopropane (2.07 g, 28 mmol) and 1,4 dimethoxyanthraquinone (1.50 g, 5.6 mmol) in freshly distilled CH2Cl2 (1.5 l) was fitted with a reflux condenser, and irradiated with a sunlamp for 6 h. The solvent was distilled and the crude mixture was dried in vacuo overnight. The crude product was triturated with warm petroleum ether to remove excess amine. Chromatography (silica gel CCl4 and CH2Cl2, 1:1) was performed by slowly increasing the polarity of the solvent to CH2Cl2 to remove the unreacted 1,4-dimethoxyanthraquinone. Upon elution with methanol, a purple band slowly developed. A purple oil remained upon removal of the solvent. The oil was extracted with warm CCl4, and crystallized by adding petroleum ether to the combined CCl4 extracts. Crystallization afforded a purple solid, 0.48 g (28%) in three crops. Recrystallization from a mixture of CCl4 and petroleum ether afforded an analytical sample: mp 108°-110° C.; 1H NMR (CDCl3)δ9.95 (broad t, 1H), 8.21-8.25 (m, 2 H), 7.68-7.73 (m, 2 H), 7.37 (d, 1 H), 7.17 (d, 1H), 4.00(s, 3 H), 3.39-3.48 (m, 2 H), 2.94 (t,2 H), 1.86-1.98 (m, 2 H), 1.36 (broad s, 2H). Anal. Calcd. for C18H18N2O3 : C, 69.66; H, 5.85, N, 9.03. Found: C, 69.75; H 5.95; N, 8.95.

reactant | 1,3-diaminopropane | 28 mmol, 2.07 g | NCCCN | C3H10N2
reactant | 1,4 dimethoxyanthraquinone | 5.6 mmol, 1.50 g | COC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)OC | C16H12O4
solvent | CH2Cl2 | 1.5 l | C(Cl)Cl | CH2Cl2
product | 1-(3-aminopropylamino)-4-methoxyanthracene-9,10-dione | NCCCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)OC | C18H18N2O3
